US05506235
C. 4-[4-(cyclohexylmethyloxy)phenylamino]quinolin-8-ol Hydrochloride Hydrate
In a manner similar to that described in Example 46, Part B, 4-chloro-quinolin-8-ol hydrobromide and 4-(cyclohexylmethyloxy)aniline were tranformed into and the title product: m.p. 286°-288° C. (from methanol-acetonitrile).

reactant | 4-chloro-quinolin-8-ol hydrobromide | Br.ClC1=CC=NC2=C(C=CC=C12)O
reactant | 4-(cyclohexylmethyloxy)aniline | C1(CCCCC1)COC1=CC=C(N)C=C1 | C13H19NO
product | 4-[4-(cyclohexylmethyloxy)phenylamino]quinolin-8-ol Hydrochloride Hydrate | O.Cl.C1(CCCCC1)COC1=CC=C(C=C1)NC1=CC=NC2=C(C=CC=C12)O | InChI=1S/C22H24N2O2.ClH.H2O/c25-21-8-4-7-19-20(13-14-23-22(19)21)24-17-9-11-18(12-10-17)26-15-16-5-2-1-3-6-16;;/h4,7-14,16,25H,1-3,5-6,15H2,(H,23,24);1H;1H2
